US07563805B2
tert-Butyl(3R)-1-benzyloxycarbonyl-4-hydroxy-3-methylpyrrolidine-3-carboxylate
To a solution of tert-butyl(3R)-4-hydroxy-3-methyl-1-[(1R)-1-phenylethyl]pyrrolidine-3-carboxylate (2.00 g, 6.55 mmol) in ethanol (10 mL), 1N hydrochloric acid (6.88 mL, 6.88 mmol) was added at room temperature, and the mixture was stirred for 10 minutes. After concentrating the reaction mixture under reduced pressure and dissolving the residue in ethanol (50 mL), 10% palladium-carbon catalyst (200 mg) was added, and the suspension was stirred in an oil bath at 50° C. for 14 hours in hydrogen atmosphere. After filtering the reaction mixture, the filtrate was concentrated, and the diethylether (30 mL) and saturated sodium hydrogencarbonate (30 mL) were added to the residue, and benzyloxycarbonyl chloride (982 μl, 6.88 mmol) was added in an ice bath. The mixture was stirred at room temperature for 3 hours, and the reaction mixture was extracted with ethyl acetate (100 mL×2). The organic layer was washed with saturated aqueous solution of sodium chloride (20 mL), and dried with anhydrous sodium sulfate. The solvent was removed by distillation under reduced pressure and the residue was purified by silica gel column chromatography (hexane:ethyl acetate=2:1→1:2) to obtain 2.00 g (91.1%) of the title compound as a colorless oily substance.

reactant | tert-butyl(3R)-4-hydroxy-3-methyl-1-[(1R)-1-phenylethyl]pyrrolidine-3-carboxylate | 6.55 mmol, 2.00 g | OC1[C@@](CN(C1)[C@H](C)C1=CC=CC=C1)(C(=O)OC(C)(C)C)C | C18H27NO3
reactant | hydrochloric acid | 6.88 mmol, 1N, 6.88 mL | Cl | ClH
reactant | sodium hydrogencarbonate | 30 mL | C(O)([O-])=O.[Na+]
reactant | benzyloxycarbonyl chloride | 6.88 mmol, 982 μl | C(C1=CC=CC=C1)OC(=O)Cl | C8H7ClO2
solvent | ethanol | 10 mL | C(C)O | C2H6O
solvent | diethylether | 30 mL | C(C)OCC | C4H10O
product | tert-Butyl(3R)-1-benzyloxycarbonyl-4-hydroxy-3-methylpyrrolidine-3-carboxylate | 2.00 g, 91.1% | C(C1=CC=CC=C1)OC(=O)N1C[C@](C(C1)O)(C(=O)OC(C)(C)C)C | C18H25NO5
